US07615651B2
Preparation of Intermediate trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester (I-6a)
3-Chloro-4-hydroxy-benzaldehyde (10.0 g) and pyridine (9.16 g) were combined in 250 mL of dichloromethane and the resulting solution was cooled in an ice/water bath as trifluoromethylsulfonic acid anhydride (19.6 g) was added gradually over the course of 15 minutes. After 1 hour, the ice/water bath was removed and the reaction mixture stirred for an additional hour as it warmed to ambient temperature. The reaction mixture was combined with a sodium bicarbonate solution that has been cooled with ice, the organic layer was separated, washed twice with a 1 N aqueous HCl solution, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by chromatography on silica gel eluting with 5% ethyl acetate in heptane to afford the title compound (I-6a).

reactant | 3-Chloro-4-hydroxy-benzaldehyde | 10.0 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | pyridine | 9.16 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethylsulfonic acid anhydride | 19.6 g | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester | ClC1=C(C=CC(=C1)C=O)OS(=O)(=O)C(F)(F)F | C8H4ClF3O4S
